US08133889B2
Step A: Methyl 4-(morpholin-4-ylcarbonyl)-1H-pyrrole-3-carboxylate
To a solution of 4-(methoxycarbonyl)-1H-pyrrole-3-carboxylic acid (2.35 g) in DMF (49 ml) there are added diisopropylethylamine (2.11 ml) and HATU (4.9 ml). After stirring for 15 minutes at 40° C., morpholine (1.35 ml) is added. After stirring for 9 hours at 60° C. and at ambient temperature over a weekend, the mixture is diluted with CH2Cl2 and 1N sodium hydroxide solution. The aqueous phase is extracted 3 times with CH2Cl2 and the organic phases are combined. The organic phase is dried over magnesium sulphate, filtered and evaporated to dryness to yield the title product, which is used directly in the next Step.

reactant | 4-(methoxycarbonyl)-1H-pyrrole-3-carboxylic acid | 2.35 g | COC(=O)C=1C(=CNC1)C(=O)O | C7H7NO4
reactant | diisopropylethylamine | 2.11 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 4.9 ml | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 1.35 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 49 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | Methyl 4-(morpholin-4-ylcarbonyl)-1H-pyrrole-3-carboxylate | N1(CCOCC1)C(=O)C=1C(=CNC1)C(=O)OC | C11H14N2O4
